US08455499B2
Step 6: 5-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-pent-4-ynoic acid
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.200 g, 0.46 mmol), 4-pentynoic acid (0.054 g, 0.55 mmol), copper iodide (spatula tip), triethylamine (0.12 mL, 0.84 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.053 g, 0.05 mmol) were combined in DME (5 mL), and the reaction was purged with N2 for 15 minutes and then stirred at 80° C. overnight. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was separated and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound. Mass spec. data (M+H)=453.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.46 mmol, 0.200 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | 4-pentynoic acid | 0.55 mmol, 0.054 g | C(CCC#C)(=O)O | C5H6O2
reactant | triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | copper iodide | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.053 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-pent-4-ynoic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C#CCCC(=O)O)C | C24H21ClN2O5
